US05476915
Synthesis of Poly 1,2 Diphenyl Ethylene
Triphenyl arsonium benzylide is reacted with tri-n-hexylborane in a ratio of 50:1 (150 equivalents of ylide to trialkyl borane). The ylide (1M) and alkyl borane are dissolved in toluene and heated to 60° C. for 24 hours under nitrogen. Propionic acid (1M) was added and the mixture refluxed for 3 days. Polymer was precipitated by addition to MeOH.

reactant | Triphenyl arsonium | C1(=CC=CC=C1)[AsH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | tri-n-hexylborane | C(CCCCC)B(CCCCCC)CCCCCC | C18H39B
reactant | Propionic acid | 1M | C(CC)(=O)O | C3H6O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2 Diphenyl Ethylene | C1(=CC=CC=C1)C=CC1=CC=CC=C1 | C14H12
